US06110499
A drug phenytoin composition is prepared as follows: first, 2,580 g of polyethylene oxide having a weight-average molecular weight of 200,000 is passed through a 40-mesh screen. Then, 1,290 g of the screened polyethylene oxide is placed into the bowl of a mixer. Then, 2,400 g of sodium phenytoin is placed in the bowl over the polyethylene oxide. Next, 300 g of polyvinylpyrrolidone of 40,000 viscosity-average molecular weight is passed through a 40-mesh screen and added to the mixer. The remaining 1,290 g of polyethylene oxide is then added to the bowl. Next, 300 g of sorbitol and 360 g of tromethamine USP (2-amino-2-hydroxymethyl-1,3-propanediol) is passed through a 40-mesh screen and added to the mixer. The addition of the dry ingredients into the bowl is performed with the sodium phenytoin located between the two layers of polyethylene oxide. The ingredients are mixed for 5 minutes to produce a homogenous blend. The granulation process is initiated by the gradual addition of 3,200 g of ethyl alcohol to the mixer with continuous mixing. Mixing is continued over a period of 5 to 10 minutes to effect a consistency to change the dry powder to granules. The wet granulation is dried at 40° C. for 16 hours and then passed through a fluid air mill with a 7-mesh screen for size reduction. Next, the size reduced granules are placed into a blender. Then, 60 g of magnesium stearate that has been passed through a 60-mesh screen is added to the granulation, and all the ingredients mixed for a minute. This preparation provides a phenytoin composition comprising sodium phenytoin, polyethylene oxide, polyvinylpyrrolidone, tromethamine, sorbitol and magnesium stearate, useful for the therapeutic management of epilepsies.

reactant | sodium phenytoin | 2,400 g | C1=CC=C(C=C1)C2(C(=O)[N-]C(=O)N2)C3=CC=CC=C3.[Na+]
reactant | sorbitol | 300 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | tromethamine | 360 g | NC(CO)(CO)CO | C4H11NO3
solvent | ethyl alcohol | 3,200 g | C(C)O | C2H6O
product | phenytoin | C=1C=CC(=CC1)C2(C(=O)N=C(N2)O)C=3C=CC=CC3 | C15H12N2O2
